2123-09-01 07:10:00 Physician Resident Progress Note
24 Hour Events:
   -weaned off labetolol gtt since 5 pm ([**8-31**]), still with high SBP
   especially when she dwells
   -renal wanted to increase labetolol but limited by HR
   -renal also wrote due for epo dose in am but did not start with
   hypertension concerns
   -increased clonidine to 0.4mg daily and resumed lasix and lisinopril
   -given 10mg IV once, then started hydral 25mg PO q6h
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsAspirin
   pt was told [**Last Name (un) **]
   Aloe [**First Name4 (NamePattern1) **]
   [**Last Name (NamePattern1) **];
   Last dose of Antibiotics:
   Levofloxacin - [**2123-8-29**] 07:53 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2123-8-31**] 09:30 AM
   Hydromorphone (Dilaudid) - [**2123-8-31**] 10:30 PM
   Hydralazine - [**2123-9-1**] 03:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-9-1**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.8
C (98.2
   HR: 67 (62 - 71) bpm
   BP: 142/84(100) {142/78(95) - 190/98(118)} mmHg
   RR: 15 (13 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,980 mL
                                                                     35 mL
   PO:
                                                                    600 mL
             TF:
   IVF:
                                                                  1,380 mL
                                                                     35 mL
   Blood products:
   Total out:
                                                                  2,450 mL
                                                                      0 mL
   Urine:
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -470 mL
                                                                     35 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///30/
   Physical Examination
   General Appearance: Thin, Anxious
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), S3
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness :
   bases b/l), (Breath Sounds: Crackles : 2/3 up from bases b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   229 K/uL
   8.6 g/dL
   97 mg/dL
   12.7 mg/dL
   30 mEq/L
   3.8 mEq/L
   68 mg/dL
   94 mEq/L
   138 mEq/L
   28.0 %
   7.9 K/uL
        [image002.jpg]
                             [**2123-8-29**]  12:41 AM
                             [**2123-8-29**]  06:50 AM
                             [**2123-8-29**]  02:58 PM
                             [**2123-8-29**]  07:18 PM
                             [**2123-8-30**]  04:56 AM
                             [**2123-8-31**]  04:20 AM
                             [**2123-9-1**]  02:59 AM
   WBC
   10.8
   11.4
   10.4
   10.0
   7.9
   Hct
   21.8
   24.6
   25.2
   24.1
   22.5
   28.0
   Plt
   [**Telephone/Fax (3) 10522**]39
   229
   Cr
   16.0
   14.9
   14.7
   13.7
   12.7
   TropT
   0.20
   0.22
   Glucose
   [**Telephone/Fax (2) 10523**]4
   97
   Other labs: PT / PTT / INR:15.7/25.3/1.4, CK / CKMB /
   Troponin-T:126/4/0.22, ALT / AST:15/17, Alk Phos / T Bili:69/0.3,
   Lactic Acid:1.1 mmol/L, Albumin:3.1 g/dL, LDH:443 IU/L, Ca++:8.4 mg/dL,
   Mg++:1.6 mg/dL, PO4:6.5 mg/dL
[**2123-8-28**] 10:10 pm DIALYSIS FLUID
   GRAM STAIN (Final [**2123-8-29**]):
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
      NO MICROORGANISMS SEEN.
      FLUID CULTURE (Preliminary):    NO GROWTH.
   [**8-29**] BCx Pending
   [**8-29**] UCx negative
   [**8-31**] PORTABLE CXR:
   FINDINGS: Status post CABG, unchanged.
   The mild pulmonary edema has improved and bilateral pleural effusions
   are
   stable, which are moderate on the left and small on the right side. No
   new
   consolidation or pneumothorax.
   IMPRESSION:
   Improved pulmonary edema with stable bilateral pleural effusions.
   Assessment and Plan
   56 y.o. F s/p failed kidney transplant on PD with low dose
   immunosuppression had 2 weeks of SOB diagnosed with asthma who
   presented to ED with N/V/ and HA found to have hypertensive emergency,
   now off labetalol gtt and on po medications.
   # Hypertensive emergency: Difficult to control but has been off
   labetalol gtt since 5 pm on [**8-31**]. Added clonidiine, lasix, Lisinopril
   and hydralazine. SBPs 150s mostly, sometimes 170s.
   - appreciate renal recs
 okay to start aliskerin
   - continue labetalol, clonidine, lasix, Lisinopril and hydralazine
   - could uptitrate hydralazine and / or add aliskerin
   - continue PD
   - SBP goal 150-160
   # Dyspnea: Likely [**12-28**] to worsening pulmonary edema/heart failure with
   volume overload seen on CXR.
   - albuterol nebs q6prn wheezing
   - continue PD
   # ESRD: Patient is on PD, N/V likely a symptom of uremia. Also with AG
   metabolic acidosis [**12-28**] to renal failure
   - continue PD
   - continue prednisone and cellcept
   - appreciate renal recs
   -  continue renalgel and calcitriol
   # Leukocytosis: Patient is afebrile but has been coughing so lungs are
   possible source.  Viral URI Is possible but given lack of
   fever/myalgias flu is unlikely.
   - f/u culture data
   - trend cbc
   - hold off on antibiotics
   - CIS
   # Anemia: Patient as anemic with baseline hct ~27 and on procrit for
   anemia of chronic disease. With guiac + emesis concern for UGI bleed
   although hemodynamics does not support hypovolemic instability.
   - active T+S
   - change PPI to po daily
   - transfuse Hct<21 or active bleeding
   - Procrit per renal (holding due to HTN, but may be able to give today)
   # Elevated INR: likely nutritional, no history of liver disease, not on
   anticoagulation. No signs of bleeding.
   - trend INR
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2123-9-1**] 03:49 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:Transfer to floor